US07388095B2
Step 2: 5-Hydroxy-1-(2,2,2-trifluoro-ethyl)-1H-indole-2-carboxylic acid ethyl ester
A mixture of 5-benzyloxy-1-(2,2,2-trifluoro-ethyl)-1H-indole-2-carboxylic acid ethyl ester (intermediate 1, step a, 13.6 g, 1.0 eq.) and palladium on activated charcoal (10% by weight, 1.15 g, 0.03 eq.) in ethyl acetate (700 mL), was vigorously stirred for 4 days at room temperature under an atmosphere of hydrogen (1 Atm). The solid was filtered off and washed with ethyl acetate. The filtrate was evaporated to dryness and purified on silica eluting with 1:4 cyclohexane/ethyl acetate to yield 8.6 g (83%) of the desired product as white solid. MS (m/e): 288.5 (MH+, 100%).

reactant | 5-benzyloxy-1-(2,2,2-trifluoro-ethyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)CC(F)(F)F | C20H18F3NO3
catalyst | palladium on activated charcoal | 1.15 g, 0.03 eq. | [Pd] | Pd
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
product | 5-Hydroxy-1-(2,2,2-trifluoro-ethyl)-1H-indole-2-carboxylic acid ethyl ester | 8.6 g, 83% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)O)CC(F)(F)F | C13H12F3NO3
